US06110638
Part D: Preparation of [2R*,7S*]-2-hydroxy-2-(4-methylphenyl)bicyclo[2.2.1]heptan-7-yl p-toluenesulfonate
A 50 mL round-bottomed flask, equipped with a drying tube, was charged with dry pyridine (5 mL), [2R*,7S*]-2-(4-methylphenyl)bicyclo[2.2.1]-heptane-2,7-diol (0.8 g, 3.7 mmole, prepared as in Part C above) and p-toluenesulfonyl chloride (0.74 g, 3.88 mmole), and the resultant reaction mixture allowed to stand for 36 hours at ambient temperature. Saturated sodium bicarbonate solution (25 mL) was then added, and the resultant mixture extracted twice with 25 mL aliquots of diethyl ether. The ether extracts were combined, washed with distilled water and dried over anhydrous sodium sulfate, then the ether was removed on a rotary evaporator. The pale yellow solid residue thus produced was purified by flash column chromatography on silica gel using a 1:1 v/v diethyl ether/hexane mixture as eluant, then recrystallized from diethyl ether/pentane to give the desired product as a white crystalline solid, yield 1.0 g, 74% based upon the diol starting material. This product decomposed at 68° C. before melting. The product was characterized as follows:

reactant | [2R*,7S*]-2-(4-methylphenyl)bicyclo[2.2.1]-heptane-2,7-diol | 3.7 mmole, 0.8 g | CC1=CC=C(C=C1)[C@@]1(C2CCC(C1)[C@@H]2O)O | C14H18O2
reactant | p-toluenesulfonyl chloride | 3.88 mmole, 0.74 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | [2R*,7S*]-2-hydroxy-2-(4-methylphenyl)bicyclo[2.2.1]heptan-7-yl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H]1C2[C@](CC1CC2)(C2=CC=C(C=C2)C)O)C | C21H24O4S
